US08877749B2
Step A: (7R)-benzyl 2,4-dioxo-1,3-diazaspiro[4.4]nonane-7-carboxylate
To (R)-benzyl 3-oxocyclopentanecarboxylate (0.5 g, 2.291 mmol) in ethanol (5 mL) were sequentially added sodium cyanide (0.281 g, 5.73 mmol), ammonium carbonate (2.86 g, 29.8 mmol) and water (5.00 mL) at room temperature. The contents were heated at 70° C. (oil bath temp.) for 3 hours. The reaction mixture was kept at room temperature for 10 min. Solid separates out. The solid was filtered and washed with water (3×10 mL). The solid was dried overnight under vacuum (155 mg, 0.538 mmol, 23.5%) and used as such for the subsequent step without further purification. MS (ESI) m/z 289.16 (M+H)+

reactant | (R)-benzyl 3-oxocyclopentanecarboxylate | 2.291 mmol, 0.5 g | O=C1C[C@@H](CC1)C(=O)OCC1=CC=CC=C1 | C13H14O3
reactant | sodium cyanide | 5.73 mmol, 0.281 g | [C-]#N.[Na+]
reactant | ammonium carbonate | 29.8 mmol, 2.86 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | water | 5.00 mL | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (7R)-benzyl 2,4-dioxo-1,3-diazaspiro[4.4]nonane-7-carboxylate | O=C1NC2(C(N1)=O)C[C@@H](CC2)C(=O)OCC2=CC=CC=C2 | C15H16N2O4
